US06943184B2
Step 1: 1-Hydroxy-N,N-dimethylcyclopropanecarboxamide
17.1 ml of trimethylsilyl chloride are added dropwise to a solution of 6 g of 1-hydroxy-cyclopropanecarboxylic acid in 120 ml of dichloromethane and 10.5 ml of pyridine. After stirring for 4 hours at ambient temperature, the mixture is cooled to 0° C., and 10 drops of dimethylformamide and then 5.4 ml of oxalyl chloride are added. The reaction mixture is stirred at 0° C. for 1 hour and at ambient temperature for 1 hour; a solution of 2.4 g of dimethylamine in 10 ml of pyridine is then added. Stirring is continued for 20 hours and then, after cooling to 0° C., 14 g of citric acid in 120 ml of methanol are added. After returning to ambient temperature for one hour, the reaction mixture is washed with 1N hydrochloric acid solution and then with NaHCO3-saturated solution and then NaCl-saturated solution. The organic phase is treated in conventional manner and chromatography over silica gel (dichloromethane/tetrahydrofuran: 90/10) allows the expected product to be isolated.

reactant | trimethylsilyl chloride | 17.1 ml | C[Si](C)(C)Cl | C3H9ClSi
reactant | 1-hydroxy-cyclopropanecarboxylic acid | 6 g | OC1(CC1)C(=O)O | C4H6O3
reactant | oxalyl chloride | 5.4 ml | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | dimethylamine | 2.4 g | CNC | C2H7N
reactant | citric acid | 14 g | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
solvent | dichloromethane | 120 ml | ClCCl | CH2Cl2
solvent | pyridine | 10.5 ml | N1=CC=CC=C1 | C5H5N
catalyst | dimethylformamide | 10 drops | CN(C=O)C | C3H7NO
solvent | pyridine | 10 ml | N1=CC=CC=C1 | C5H5N
solvent | methanol | 120 ml | CO | CH4O
product | 1-Hydroxy-N,N-dimethylcyclopropanecarboxamide | OC1(CC1)C(=O)N(C)C | C6H11NO2
